US09315521B2
2-{[(4-ethyl-1-methyl-1H-pyrazol-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (129 mg, 488 μmol) was stirred in methanol (20 mL), and a solution of 4 N HCl in dioxane (190 μL, 732 μmol) was added dropwise at 0° C. The mixture was stirred for 15 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford 2-{[(4-ethyl-1-methyl-1H-pyrazol-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride (113 mg, 77% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.10 (t, J=7.6 Hz, 3H), 2.24 (s, 3H), 2.41 (q, J=7.0 Hz, J=0.4 Hz, 2H), 3.75 (s, 3H), 4.35 (s, 2H), 6.12 (s, 1H), 7.48 (s, 1H); LRMS (ES+) m/z 265 (40%, M+1).

reactant | 2-{[(4-ethyl-1-methyl-1H-pyrazol-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 488 μmol, 129 mg | C(C)C=1C(=NN(C1)C)CSC1=NC(=CC(=N1)O)C | C12H16N4OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 732 μmol, 190 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | 2-{[(4-ethyl-1-methyl-1H-pyrazol-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride | 113 mg, 77% yield | Cl.C(C)C=1C(=NN(C1)C)CSC1=NC(=CC(=N1)O)C | InChI=1S/C12H16N4OS.ClH/c1-4-9-6-16(3)15-10(9)7-18-12-13-8(2)5-11(17)14-12;/h5-6H,4,7H2,1-3H3,(H,13,14,17);1H
